US07405215B2
b.) [3-(2-Ethyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid
[3-(2-Ethyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid tert-butyl ester (61 μmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ 8.09 (d, 1H), 7.91 (t, 1H), 7.84 (t, 1H), 7.48 (d, 1H), 7.42 (dd, 1H), 6.97 (m, 2H), 4.52 (s, 2H), 3.96 (q, 2H), 2.21 (s, 3H), 1.39 (t, 3H) ppm. MS calculated for C20H18FN3O4S—H: 414, observed: 414.

reactant | [3-(2-Ethyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid tert-butyl ester | 61 μmol | C(C)(C)(C)OC(CN1C(=C(C2=CC(=CC=C12)F)C1=NN(S(C2=C1C=CC=C2)(=O)=O)CC)C)=O | C24H26FN3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | [3-(2-Ethyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid | C(C)N1S(C2=C(C(=N1)C1=C(N(C3=CC=C(C=C13)F)CC(=O)O)C)C=CC=C2)(=O)=O | C20H18FN3O4S
